US08119663B2
3,4-Difluoro-N′-hydroxybenzenecarboximidamide
1.0 g (7.2 mmol) of 3,4-difluorobenzonitrile was initially charged in 30 ml of ethanol, and a solution of 0.5 g (7.2 mmol) of hydroxylammonium chloride and 0.6 g (7.2 mmol) of sodium bicarbonate in 11 ml of water was added at RT. The reaction mixture was stirred at RT for 16 h, concentrated under reduced pressure and reacted without further purification.

reactant | 3,4-difluorobenzonitrile | 7.2 mmol, 1.0 g | FC=1C=C(C#N)C=CC1F | C7H3F2N
reactant | hydroxylammonium chloride | 7.2 mmol, 0.5 g | [Cl-].O[NH3+]
reactant | sodium bicarbonate | 7.2 mmol, 0.6 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 11 ml | O | H2O
product | 3,4-Difluoro-N′-hydroxybenzenecarboximidamide | FC=1C=C(C=CC1F)C(N)=NO | C7H6F2N2O
